US07981874B2
4-(2-{[ethoxy(methyl)phosphoryl]oxy}ethyl)benzoic acid.
To a solution of tert-butyl 4-(2-{[ethoxy(methyl)phosphoryl]oxy}ethyl)benzoate (108 mg, 0.33 mmol) in DCM (0.66 mL) was added TFA (0.60 mL, 7.8 mmol). After stirring at room temperature for 30 minutes, the solution was concentrated in vacuo to give the title compound as a colorless oil. 1H NMR (CDCl3, 600 MHz) δ 7.85 (d, J=8.2 Hz, 2H), 7.37 (d, J=8.2 Hz, 2H), 4.10-4.16 (m, 2H), 3.80-3.88 (m, 2H), 2.95 (t, J=6.4 Hz, 2H), 1.32 (d, J=17.3 Hz, 3H), 1.13 (t, J=7.1 Hz, 3H). MS cal'd 272 (MH+), exp 272 (MH+).

reactant | tert-butyl 4-(2-{[ethoxy(methyl)phosphoryl]oxy}ethyl)benzoate | 0.33 mmol, 108 mg | C(C)OP(=O)(C)OCCC1=CC=C(C(=O)OC(C)(C)C)C=C1 | C16H25O5P
reactant | TFA | 7.8 mmol, 0.60 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 0.66 mL | C(Cl)Cl | CH2Cl2
product | 4-(2-{[ethoxy(methyl)phosphoryl]oxy}ethyl)benzoic acid | C(C)OP(=O)(C)OCCC1=CC=C(C(=O)O)C=C1 | C12H17O5P
